US08309542B2
(d) tert. Butyl (2S,4R)-2-acetylaminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate
70.0 mg (0.2 mmol) tert. Butyl (2S,4R)-2-aminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate are dissolved in 5 ml DCM and combined successively at −10° C. with 15.4 μl (0.2 mmol) acetyl chloride and 67 μl (0.4 mmol) DIPEA. The mixture is stirred for two hours at 0° C. Then it is made weakly acidic by the careful addition of dil. hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | tert. Butyl (2S,4R)-2-aminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate | 0.2 mmol, 70.0 mg | NC[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C15H22ClN3O3S
reactant | acetyl chloride | 0.2 mmol, 15.4 μl | C(C)(=O)Cl | C2H3ClO
reactant | DIPEA | 0.4 mmol, 67 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | tert. Butyl (2S,4R)-2-acetylaminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate | C(C)(=O)NC[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C17H24ClN3O4S
